US04241079
To a mixture of 3-imino-(o-nitrophenyl)methyl-4-(3-carbomethoxythioureido)benzophenone (4.62 g.; 0.01 mol) in dimethyl formamide (40 ml.) there is added 57% sodium hydride (0.42 g.; 0.01 mol) (oil dispersion). The mixture is stirred at room temperature for one hour and to it there is added dimethyl sulfite (1.1 g.; 0.01 mol). The mixture is stirred at room temperature for 11/2 hours and is poured into an excess of water. The suspension formed is vacuum filtered and the filter caked dried to afford 3-imino-(o-nitrophenyl)methyl-4-(3-carbomethoxy-S-methylisothioureido)benzophenone.

reactant | 3-imino-(o-nitrophenyl)methyl-4-(3-carbomethoxythioureido)benzophenone | 0.01 mol, 4.62 g | N=C1C(C(C(=O)C2=CC=CC=C2)=CC=C1NC(=S)NC(=O)OC)CC1=C(C=CC=C1)[N+](=O)[O-] | C23H20N4O5S
reactant | sodium hydride | 0.01 mol, 0.42 g | [H-].[Na+]
reactant | dimethyl sulfite | 0.01 mol, 1.1 g | S(=O)(OC)OC | C2H6O3S
reactant | water | O | H2O
solvent | dimethyl formamide | 40 ml | CN(C=O)C | C3H7NO
product | 3-imino-(o-nitrophenyl)methyl-4-(3-carbomethoxy-S-methylisothioureido)benzophenone | N=C1C(C(C(=O)C2=CC=CC=C2)=CC=C1NC(SC)=NC(=O)OC)CC1=C(C=CC=C1)[N+](=O)[O-] | C24H22N4O5S
